US04654342
6-[4-(N2 -Cyanoguanidino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone
A solution of sodium dicyanamide (0.5 g) in water (20 ml) was added to a solution of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone (1.0 g) in a mixture of aqueous acetic acid (20 ml) and 10M hydrochloric acid (0.5 ml). The resultant solution was stirred at room temperature for 3 days. A precipitate formed which was collected, washed with water and then with ethanol, and dried to give the title compound (0.33 g), thin layer chromatography and nuclear magnetic resonance spectroscopy showed this to be consistent with the product of Example 6, m.p. 257°-260° C. (decomp).

reactant | sodium dicyanamide | 0.5 g | [N-](C#N)C#N.[Na+]
reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 1.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 10M, 0.5 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 6-[4-(N2 -Cyanoguanidino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | 0.33 g | C(#N)N=C(NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C)N | C13H14N6O
